US07001897B2
To a solution of (3S)-3-methanesulfonyloxy-1-(p-nitrobenzyloxycarbonyl)pyrrolidine (5.33 g, 15.0 mmol) (obtained as described in Reference Example 53(3)) in dimethylformamide (159 ml) was added sodium azide (1.07 g, 16.5 mmol), and the mixture was stirred in an oil bath (100° C.) for 3.5 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed successively with 10% aqueous sodium chloride solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (3:1→1:2) as the eluant to afford (3R)-3-azido-1-(p-nitrobenzyloxycarbonyl)pyrrolidine (4.48 g, yield 100%) as a colorless oil.

reactant | (3S)-3-methanesulfonyloxy-1-(p-nitrobenzyloxycarbonyl)pyrrolidine | 15.0 mmol, 5.33 g | CS(=O)(=O)O[C@@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O7S
reactant | sodium azide | 16.5 mmol, 1.07 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 159 ml | CN(C=O)C | C3H7NO
product | (3R)-3-azido-1-(p-nitrobenzyloxycarbonyl)pyrrolidine | 4.48 g, yield 100% | N(=[N+]=[N-])[C@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C12H13N5O4
